US08791107B2
PREPARATION x24: (R)-tert-butyl 2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetate
Sodium hydride (60% in oil, 19.41 mg, 0.485 mmol) was added to a solution of (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x3, 100 mg, 0.441 mmol) in DMF (1 mL) at 0° C. The resulting mixture was stirred at room temperature for 30 minutes, after which tert-butyl bromoacetate (0.078 mL, 0.529 mmol) was added at 0° C. The reaction mixture was stirred at room temperature for 30 minutes. Water was added and the mixture was extracted with EtOAc, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 20-80% EtOAc/hexane gradient) to afford the title compound as an off-white solid (101 mg, 67.2%). 1H NMR (400 MHz, CDCl3) δ 1.44-1.49 (m, 9H), 3.01-3.11 (m, 1H), 3.15-3.29 (m, 2H), 3.37 (dd, J=11.37, 8.84 Hz, 1H), 3.58 (td, J=11.94, 2.91 Hz, 1H), 3.64-3.76 (m, 2H), 3.88-4.07 (m, 3H), 4.53 (dd, J=13.89, 2.02 Hz, 1H), 7.22 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C15H21ClN4O3, 341.13. found 341.2

reactant | Sodium hydride | 0.485 mmol, 19.41 mg | [H-].[Na+]
reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.441 mmol, 100 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | tert-butyl bromoacetate | 0.529 mmol, 0.078 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetate | 101 mg, 67.2% | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)OC(C)(C)C)COCC3 | C15H21ClN4O3
